V1 net_in1 0 SINE(0 {v_amp} {freq} 0 0 0)
V2 net_in2 0 SINE(0 {v_amp} {freq} 0 0 120)
V3 net_in3 0 SINE(0 {v_amp} {freq} 0 0 240)
R1 N002 net_in1 {r_in}
R2 N004 net_in2 {r_in}
R3 N006 net_in3 {r_in}
L1 N002 N003 {l_in}
L2 N004 N005 {l_in}
L3 N006 N007 {l_in}
D1 N003 N001 D
D2 N008 N003 D
D3 N005 N001 D
D4 N008 N005 D
D5 N007 N001 D
D6 N008 N007 D
L4 N001 net_out {l_choke}
L5 N008 N009 {l_choke}
R4 net_out N009 {r_out}
.model D D
.param v_amp=400 freq=50 cycles=1000
.param r_in=200m l_in=5m
.param l_choke=20m
.param r_out=1k
.tran 0.1n 100m 0 1u
.end
